US06407076B1
N-(4-Fluoro-phenyl)-5′-O-(2,2,2-trifluoro-ethyl)-adenosine
(2R,3R,4S,5R)-2-(6-Chloro-purin-9-yl)-5-(2,2,2-trifluoroethoxymethyl)-tetrahydro-furan-3,4-diol (125 mg) in isopropanol (5 ml) under nitrogen was treated with 4-fluoroaniline (0.08 ml, 90 mg) and diisopropylethylamine (0.28 ml, 210 mg), and the mixture was heated under reflux for 24 h. After cooling to 22° C. the mixture was filtered, the filter cake washed with isopropanol (2 ml) and ether (15 ml) and the solid dried in vacuo to give the title compound as a white solid (70 mg), m.p. 214-5°.

reactant | (2R,3R,4S,5R)-2-(6-Chloro-purin-9-yl)-5-(2,2,2-trifluoroethoxymethyl)-tetrahydro-furan-3,4-diol | 125 mg | ClC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COCC(F)(F)F | C12H12ClF3N4O4
reactant | 4-fluoroaniline | 0.08 ml, 90 mg | FC1=CC=C(N)C=C1 | C6H6FN
reactant | diisopropylethylamine | 0.28 ml, 210 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | N-(4-Fluoro-phenyl)-5′-O-(2,2,2-trifluoro-ethyl)-adenosine | 70 mg | FC1=CC=C(C=C1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](COCC(F)(F)F)O3)C2N=CN1 | C18H17F4N5O4
